US07179940B2
Preparation of (p-methoxyphenyl) (dicyclohexylamino)borane
1.130 g (0.19 mmol) of palladium catalyst (Ph3P)2PdCl2, 0.868 g (3.7 mmol) of p-iodotoluene, 2.5 ml (18.5 mmol) of triethylamine, 15 ml of dioxane and 0.708 g (3.7 mmol) of dicyclohexylaminoborane were introduced into a 100 ml Schlenk vessel dried beforehand under argon. The Schlenk vessel was subsequently equipped with a reflux condenser connected via the top to a bubbler. The reaction mixture was stirred magnetically and heated at 70° C. for 15 h. The reaction mixture was subsequently allowed to return, under argon, to ambient temperature. The solvent and the excess reactants were evaporated under the vacuum of a vane pump. The residue obtained was taken up in anhydrous ether and then filtered under argon through dry Celite® 545. The filtrate was again evaporated and the residue was distilled in a Kügelrohr distillation apparatus (T=40° C.) under a vacuum of 0.01 mmHg. 0.884 g (Yd=81%) of a white solid was isolated. The spectroscopic characteristics are as follows:

reactant | p-iodotoluene | 3.7 mmol, 0.868 g | IC1=CC=C(C=C1)C | C7H7I
reactant | triethylamine | 18.5 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | dicyclohexylaminoborane | 3.7 mmol, 0.708 g | C1(CCCCC1)N(C1CCCCC1)B | C12H24BN
catalyst | palladium | 0.19 mmol, 1.130 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | (p-methoxyphenyl) (dicyclohexylamino)borane | COC1=CC=C(C=C1)BN(C1CCCCC1)C1CCCCC1 | C19H30BNO
